US08541455B2
To a mixture of 17.3 mL (165 mmol) of tert-butylamine and 69 mL (495 mmol) of TEA in 330 mL of DCM are added portionwise, at 0° C., 35 g (165 mmol) of 6-chloropyridine-3-sulfonyl chloride. After stirring for 2 hours at 0° C., the reaction medium is taken up in 600 mL of DCM, washed with water (1 L), saturated NaHCO3 solution (1 L) and brine (1 L), dried over Na2SO4, filtered and concentrated under reduced pressure. 32.4 g of N-tertbutyl-6-chloropyridine-3-sulfonamide are obtained in the form of a white solid.

reactant | tert-butylamine | 165 mmol, 17.3 mL | C(C)(C)(C)N | C4H11N
reactant | 6-chloropyridine-3-sulfonyl chloride | 165 mmol, 35 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | DCM | 330 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
product | N-tertbutyl-6-chloropyridine-3-sulfonamide | 32.4 g, Yield=79% | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)Cl | C9H13ClN2O2S
